US05053408
A mixture of 7.38 g (59.9 mmols) of o-anisidine, 10 ml (202.3 mmols) of ethylene oxide and 150 ml of a solvent mixture of acetic acid and water (9/1) was stirred at room temperature for 40 hours. The mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: chloroform/methanol =30/1) to afford o-[N,N-bis(hydroxyethyl)amino]anisole.

reactant | o-anisidine | 59.9 mmols, 7.38 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | ethylene oxide | 202.3 mmols, 10 ml | C1CO1 | C2H4O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | o-[N,N-bis(hydroxyethyl)amino]anisole | OCCN(CCO)C1=C(C=CC=C1)OC | C11H17NO3
